US08232272B2
5-(4-amino-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one
36.5 g (134 mM) of 1-(4-amino-3-nitrophenyl)-2-bromopropan-1-one and 24.3 g (202.5 mM) of O-ethyl hydrazinecarbothioate dissolved in 190 ml of acetonitrile are refluxed for 4 hours with stirring. The reaction mixture is cooled and maintained at 0° C. for 16 hours. The crystalline solid is filtered off and washed with cold acetonitrile to give, after drying, 10.4 g of 5-(4-amino-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in the form of a solid.

reactant | 1-(4-amino-3-nitrophenyl)-2-bromopropan-1-one | 134 mM, 36.5 g | NC1=C(C=C(C=C1)C(C(C)Br)=O)[N+](=O)[O-] | C9H9BrN2O3
reactant | O-ethyl hydrazinecarbothioate | 202.5 mM, 24.3 g | N(N)C(OCC)=S | C3H8N2OS
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
product | 5-(4-amino-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | NC1=C(C=C(C=C1)C1=NNC(SC1C)=O)[N+](=O)[O-] | C10H10N4O3S
